US04957916
A mixture of 4.5 parts of 3-(2-chloroethyl)-2-methyl-4H-pyrido-[1,2-a]pyrimidin-4-one, 6 parts of 1-(2-fluorobenzoyl)piperazine, 2-phenylhydrazine, 5.04 parts of sodium carbonate, 0.1 parts of potassium iodide and 120 parts of 4-methyl-2-pentanone was stirred overnight at reflux temperature. The inorganic salts were filtered off and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 2.5 parts (25.8) of 3-[2-[4-[(2-fluorophenyl)(2-phenylhydrazono)methyl]-1-piperazinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one; mp. 180° C. (int. 10).

reactant | 3-(2-chloroethyl)-2-methyl-4H-pyrido-[1,2-a]pyrimidin-4-one | ClCCC1=C(N=C2N(C1=O)C=CC=C2)C | C11H11ClN2O
reactant | 1-(2-fluorobenzoyl)piperazine | FC1=C(C(=O)N2CCNCC2)C=CC=C1 | C11H13FN2O
reactant | 2-phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 3-[2-[4-[(2-fluorophenyl)(2-phenylhydrazono)methyl]-1-piperazinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | FC1=C(C=CC=C1)C(N1CCN(CC1)CCC1=C(N=C2N(C1=O)C=CC=C2)C)=NNC2=CC=CC=C2 | C28H29FN6O
